*Ngspice Common Source Circuit
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" tt

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_01v8 W=5.0 L=0.5
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 1.8


*****************
** Analysic
*****************
.control
set appendwrite

shell  rm -rf ./ngspice_results/sky130_fd_pr__nfet_01v8_dc_W_5.0_L_0.5_tt_ngspice.csv

DC v1 0 1.8 0.1
wrdata ./ngspice_results/sky130_fd_pr__nfet_01v8_dc_W_5.0_L_0.5_tt_ngspice.csv  -I(vdd)

.endc
.end
